US07960552B2
A solution of 75 mg (0.22 mmol) of dimethyl 7-(4-hydroxyphenyl)-2,4-quinolinedicarboxylate, 135 mg (0.44 mmol) of 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole and 125 mg (0.89 mmol) of K2CO3 in 2 mL DMF was stirred at ambient temperature for 60 hr. EtOAc was added and the mixture washed with three portions of H2O then brine. The solution was concentrated and the residue purified by silica gel chromatography (12 g of silica gel eluting with 0-50% EtOAc in hexanes over 45 minutes) to give 62 mg (46%) of dimethyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2,4-quinolinedicarboxylate as a clear glass. 1H NMR (400 MHz, CDCl3): δ 8.88 (d, J=9.0 Hz, 1H), 8.65 (s, 1H), 8.50 (s, 1H), 7.98 (d, J=9 Hz, 1H), 7.65 (d, J=9 Hz, 2H), 7.41 (d, J=8 Hz, 2H), 7.35-7.31 (m, 1H), 6.91 (d, J=9 Hz, 2H), 4.79 (s, 2H), 4.11 (s, 3H), 4.07 (s, 3H), 3.36 (septet, J=7 Hz, 1H), 1.44 (d, J=7 Hz, 6H). ESI-LCMS m/z 606 (M+H)+.

reactant | dimethyl 7-(4-hydroxyphenyl)-2,4-quinolinedicarboxylate | 0.22 mmol, 75 mg | OC1=CC=C(C=C1)C1=CC=C2C(=CC(=NC2=C1)C(=O)OC)C(=O)OC | C19H15NO5
reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole | 0.44 mmol, 135 mg | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | K2CO3 | 0.89 mmol, 125 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | dimethyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2,4-quinolinedicarboxylate | 62 mg, 46% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C(=CC(=NC2=C1)C(=O)OC)C(=O)OC)C(C)C | C32H26Cl2N2O6
